US03989507
3-Methyl-1H-pyrido(2,3-c)(1,2,6)thiadiazin-4(3H)-one-2,2-dioxide
Methyl 2-(((methylamino)sulfonyl)amino)-3-pyridine carboxylate (11.0 grams; 0.045 mole) was dissolved in 150 ml. of methanol and sodium methoxide (7.3 grams; 0.135 mole) added thereto. The resulting reaction mixture was heated at reflux temperatures for a period of about 4 hours. After cooling the reaction mixture, the solvent was removed in vacuo and the residue thus obtained suspended in 30 ml. of water and the resulting suspension acidified to a pH of about 1.0 with concentrated hydrochloric acid. The reaction mixture was filtered and the precipitate thus obtained was washed with several portions of water and dried in vacuo. As a result of such operations, the desired title compound was obtained as a white powder having a melting point of 290°-292° C.

reactant | Methyl 2-(((methylamino)sulfonyl)amino)-3-pyridine carboxylate | 0.045 mole, 11.0 grams | CNS(=O)(=O)NC1=NC=CC=C1C(=O)OC | C8H11N3O4S
reactant | methanol | CO | CH4O
reactant | sodium methoxide | 0.135 mole, 7.3 grams | C[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 3-Methyl-1H-pyrido(2,3-c)(1,2,6)thiadiazin-4(3H)-one-2,2-dioxide | CN1C(C2=C(NS1(=O)=O)N=CC=C2)=O | C7H7N3O3S
